US07893058B2
Step 2: 4-Bromo-2-(tert-butyldimethylsilyloxy)-6-methylpyridine
A solution of 4-bromo-6-methylpyridin-2-ol (376 mg, 2 mmol) in dry DMF (20 mL) is stirred under N2. TBDMS-Cl (600 mg, 4 mmol) is added, followed by triethylamine (0.97 mL, 7.00 mmol), and the mixture is stirred at rt for 1 h. The solution is poured into ice-water (170 mL) and extracted with diethyl ether (5×50 mL). The combined extracts are dried over Na2SO4 and the solvent is evaporated under reduced pressure. The residue is taken up in pentane (50 mL), dried over Na2SO4 and the solvent evaporated again, to afford the crude title compound as a yellow oil. This is used without further purification.

reactant | 4-bromo-6-methylpyridin-2-ol | 2 mmol, 376 mg | BrC1=CC(=NC(=C1)C)O | C6H6BrNO
reactant | TBDMS-Cl | 4 mmol, 600 mg | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | triethylamine | 7.00 mmol, 0.97 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-Bromo-2-(tert-butyldimethylsilyloxy)-6-methylpyridine | BrC1=CC(=NC(=C1)C)O[Si](C)(C)C(C)(C)C | C12H20BrNOSi
